US08729095B2
To a mixed solvent solution of benzyl 3-fluoro-2′-{[(1R)-3-hydroxy-1-methylpropyl]oxy}biphenyl-4-carboxylate (13.4 g) in acetonitrile (252 ml) and a neutral phosphate pH standard solution (pH 6.86) (198 ml) were added at room temperature a 2,2,6,6-tetramethyl-1-piperidyloxy radical (533 mg), 79% sodium chlorite (7.83 g) and a 5% aqueous sodium hypochlorite solution (2.0 ml). The reaction solution was stirred at 50° C. for 4.5 hours. After the reaction solution was cooled to room temperature, an aqueous sodium sulfite solution and a 10% aqueous citric acid solution were added, and extracted with dichloromethane. The organic layer was washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. To a toluene solution (80 ml) of the resulting residue (11.0 g) was added at room temperature a supernatant (34 ml) containing tert-butyl N,N′-diisopropylimidocarbamate prepared in the method described in Example 1-1, followed by stirring at 60° C. for 4.5 hours. The reaction solution was poured into ice water, and then filtered through Celite. After the filtrate was separated, the aqueous layer was extracted with ethyl acetate. The collected organic layer was washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to afford benzyl 2′-{[(1R)-3-tert-butoxy-1-methyl-3-oxopropyl]oxy}-3-fluorobiphenyl-4-carboxylate (12.8 g).

reactant | benzyl 3-fluoro-2′-{[(1R)-3-hydroxy-1-methylpropyl]oxy}biphenyl-4-carboxylate | 13.4 g | FC=1C=C(C=CC1C(=O)OCC1=CC=CC=C1)C1=C(C=CC=C1)O[C@@H](CCO)C | C24H23FO4
reactant | phosphate | P(=O)([O-])([O-])[O-]
reactant | sodium chlorite | 7.83 g | Cl(=O)[O-].[Na+]
reactant | sodium hypochlorite | 2.0 ml | Cl[O-].[Na+]
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | acetonitrile | 252 ml | C(C)#N | C2H3N
product | benzyl 2′-{[(1R)-3-tert-butoxy-1-methyl-3-oxopropyl]oxy}-3-fluorobiphenyl-4-carboxylate | 12.8 g | C(C)(C)(C)OC(C[C@@H](C)OC1=C(C=CC=C1)C1=CC(=C(C=C1)C(=O)OCC1=CC=CC=C1)F)=O | C28H29FO5
